US06265415B1
Synthesis of 8-(2,6-diethylbenzylamino)-2,6-dimethyl-3-hydroxymethyl imidazo[1,2-a]pyridine
A solution of 3-carboethoxy-2,6-dimethyl-8-(2,6-diethylbenzylamino)imidazo[1,2-a]pyridine (1.75 g, 4.6 mmol) in 30 ml tetrahydrofuran was treated with lithium aluminiumhydride (0.7 g, 18.5 mmol) at room temperature during 3.5 h. The reaction was complete after 4 h and was quenched carefully by dropwise addition of water (0.7 ml), aqueous sodium hydroxide (0.7 ml, 15%) and again water (2 ml). The mixture was extracted with chloroform and the organic layer was concentrated. The residue was recrystallized in ethanol and the white crystalline product was filtrated, washed with diethyl ether and dried in vacuo, which gave 1.5 g (96%) yield.

reactant | 3-carboethoxy-2,6-dimethyl-8-(2,6-diethylbenzylamino)imidazo[1,2-a]pyridine | 4.6 mmol, 1.75 g | C(=O)(OCC)C1=C(N=C2N1C=C(C=C2NCC2=C(C=CC=C2CC)CC)C)C | C23H29N3O2
reactant | lithium aluminiumhydride | 18.5 mmol, 0.7 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 8-(2,6-diethylbenzylamino)-2,6-dimethyl-3-hydroxymethyl imidazo[1,2-a]pyridine | C(C)C1=C(CNC=2C=3N(C=C(C2)C)C(=C(N3)C)CO)C(=CC=C1)CC | C21H27N3O
